US07842945B2
Into a solution of 19.6 g (60.7 mmol) of 3-bromo-9-phenylcarbazole, prepared in Step 1 of the Embodiment 2, in THF (100 mL) was added dropwise 66.8 mL (42.3 mmol) of an n-butyllithium hexane solution (1.58 mol/L) at −78° C. under nitrogen, which was followed by stirring for 3 hours at the same temperature. Thereafter, 13.5 mL (140 mmol) of trimethyl borate was added, and stirring was continued for 24 hours while gradually raising the reaction temperature to room temperature. 200 mL of 2.0 mol/L hydrochloric acid was added to the solution, and additional stirring was conducted for 1 hour at room temperature. After the solution was extracted with ethyl acetate, the organic layer was washed with brine, dried with magnesium sulfate, filtered, and concentrated. The resulting solid was recrystallized with a mixed solvent of chloroform and hexane, giving 10.2 g of 9-phenylcarbazole-3-ylboronic acid as white powder in 58% yield.

reactant | 3-bromo-9-phenylcarbazole | 60.7 mmol, 19.6 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12BrN
reactant | n-butyllithium hexane | 42.3 mmol, 1.58 mol/L, 66.8 mL | CCCCCC.C(CCC)[Li]
reactant | trimethyl borate | 140 mmol, 13.5 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2.0 mol/L, 200 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 9-phenylcarbazole-3-ylboronic acid | 10.2 g, 58% yield | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
